*
C1 Vout 0 27.77µ V=25 Rser=2.94m Lser=0.6n
L1 N008 Vout 5.6µ Rser=1m
V1 N015 0 2.5
Rf1 Vout N011 10k
Rf2 N013 N011 321R
Cf1 Vout N013 1.54n
Rc1 N012 N011 19.3k
Cc1 comp_out N011 36.6p
Rf3 N011 0 10k
V2 P001 0 5
Cc2 comp_out N012 1.66n
C2 Vout 0 27.77µ V=25 Rser=2.94m Lser=0.6n
C3 Vout 0 27.77µ V=25 Rser=2.94m Lser=0.6n
X§U1 comp_out V_trig N009 0 N006 tlv3501 ;§pnba In+)In-)V+)V-)OUT
V3 N009 0 5
S1 N008 N007 N006 0 MYSW
V4 N007 0 22
V5 P002 0 5
V6 N002 0 5
R1 V_trig N005 8k
R2 N005 V_comp 10k
R3 N001 V_comp 6.944k
C4 V_trig N001 100p
Vref_comp1 N004 0 2.5
Vref_int1 N003 0 2.5
X§U2 N003 N001 N002 0 V_trig OPA365 ;§pnba In+)In-)V+)V-)OUT
X§U3 N005 N004 P002 0 V_comp tlv3501 ;§pnba In+)In-)V+)V-)OUT
X§U4 N014 N011 P001 0 comp_out OPA365 ;§pnba In+)In-)V+)V-)OUT
R4 N014 N015 10k
C5 N014 0 72n
D2 N014 N015 1N5817
I1 Vout 0 PULSE(0.5 5 4m 1u 1u 1m 2m)
S2 0 N008 N010 0 MYSW
A1 N006 0 0 0 0 N010 0 0 BUF Vhigh=5 Vlow = 0
D1 0 N008 D
.model D D
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.dio
.model MYSW SW(Ron=0.01 Roff=1Meg Vt=2.5)
.options trtol=7 reltol=0.01 method=gear
.include OPA365.lib
.include tlv3501.lib
.tran 0 8m 0 startup
.options gmin=1e-10
* To overcome the SHDN pin commands in the .lib file we have to include the .options param
.backanno
.end
