* E:\Sync_Buck_convertor\simulations\SCP_OCP.asc
* Generated by LTspice 26.0.1 for Windows.
C1 Vout 0 27.77µ V=25 Rser=2.94m Lser=0.6n
L1 N011 Vout 5.6µ Rser=1m
V1 N025 0 2.5
Rf1 Vout N020 10k
Rf2 N022 N020 321R
Cf1 Vout N022 1.54n
Rc1 N021 N020 19.3k
Cc1 comp_out N020 36.6p
Rf3 N020 0 10k
V2 P001 0 5
Cc2 comp_out N021 1.66n
C2 Vout 0 27.77µ V=25 Rser=2.94m Lser=0.6n
C3 Vout 0 27.77µ V=25 Rser=2.94m Lser=0.6n
X§U1 comp_out V_trig N019 0 Master_PWM tlv3501 ;§pnba In+)In-)V+)V-)OUT
V3 N019 0 5
S1 N011 N010 N013 0 MYSW
V4 Battery_in 0 PWL(0 0 0.5m 9 1m 9 1.5m 16 7m 16)
V5 P002 0 5
V6 N007 0 5
R1 V_trig N015 8k
R2 N015 V_comp 10k
R3 N005 V_comp 6.944k
C4 V_trig N005 100p
Vref_comp1 N014 0 2.5
Vref_int1 N009 0 2.5
X§U2 N009 N005 N007 0 V_trig OPA365 ;§pnba In+)In-)V+)V-)OUT
X§U3 N015 N014 P002 0 V_comp tlv3501 ;§pnba In+)In-)V+)V-)OUT
X§U4 N023 N020 P001 0 comp_out OPA365 ;§pnba In+)In-)V+)V-)OUT
R4 N023 N025 10k
C5 N023 0 100n
D2 N023 N025 1N5817
S2 V_sense N011 N016 0 MYSW
D1 0 N011 BAT54
D3 comp_out N020 D
R5 AND_IN N048 4000
C6 AND_IN 0 100p
D4 AND_IN N048 BAT54
R6 V_sense 0 5m
X§U5 N034 V_sense P003 0 N031 tlv3501 ;§pnba In+)In-)V+)V-)OUT
A2 N031 0 Master_PWM 0 0 N026 N032 0 DFLOP Vhigh=5 Vlow=0 Ref=2.5 Trise=5n Tfall=5n Td=0n
A3 0 N024 N026 0 0 0 PWM_signal 0 AND Vhigh=5 Vlow=0 Ref=2.5 Trise=5n Tfall=5n
V7 P003 0 5
V8 N034 0 -30m
I1 P004 0 PULSE(4 10 1.5m 1u 1u 1m 5m)
R7 NC_02 NC_03 1.25
S3 0 P005 N018 0 FAULT_SW
R§0.3 Vout P005 0.5
V9 N018 0 PULSE(0 5 2.5m 1u 1u 0.5m 10m)
M1 N023 N047 N030 N030 FAULT_NMOS
R8 N030 0 1k
C7 N045 0 10n
R9 N045 0 100k
D5 N032 N044 D
R10 N044 N045 10k
X§U6 N045 N046 P006 0 N047 tlv3501 ;§pnba In+)In-)V+)V-)OUT
V10 P006 0 5
V11 N046 0 2.5
A4 Master_PWM 0 0 0 0 0 N024 0 BUF Vhigh=5 Vlow=0 Ref=2.5 Td=0n
A1 PWM_signal 0 0 0 0 0 N017 0 BUF Vhigh=5 Vlow=0 Ref=2.5 Td=50n
A5 0 N017 PWM_signal 0 0 0 N013 0 AND Vhigh=5 Vlow=0 Ref=2.5 Trise=5n Tfall=5n
A6 0 N017 PWM_signal 0 0 N016 0 0 OR Vhigh=5 Vlow=0 Ref=2.5 Trise=5n Tfall=5n
M2 Battery_in PMOS_gate PMOS_source PMOS_source HEAVY_PMOS
R11 PMOS_gate 0 100k
D6 PMOS_gate PMOS_source BZX84C12L
R12 N037 V_temp_sense R=10k * exp(3950 * (1/(V(T_node)+273.15) - 1/298.15))
R13 V_temp_sense 0 10k
V12 N037 0 5
X§U7 N041 V_temp_sense N039 0 OTP_out tlv3501 ;§pnba In+)In-)V+)V-)OUT
V13 N039 0 5
R14 N041 N037 10k
R15 0 N041 136.1k
R16 OTP_out N041 186.8k
V14 T_node 0 PWL(0 25 3.5m 25 4m 125 4.5m 25 7m 25)
X§U9 V_v+ N033 N029 0 V_OVP_comp tlv3501 ;§pnba In+)In-)V+)V-)OUT
V18 N029 0 PWL(0 0 1m 5 6m 5 6.001m 0 7m 0)
V19 N033 0 2.5
Q3 N027 npn_base 0 0 2N3904
Q4 N040 N028 PMOS_source 0 2N3906
R24 N028 N027 4.7k
R25 npn_base N036 4.7k
D10 N035 N036 BAT54
R26 N038 N040 4.7k
D11 N040 PMOS_gate 1N5819
R27 PMOS_source N028 10k
D12 P007 Vout SMAJ5_0A
V20 P008 N012 PWL(0 0 1m 0 1.005m 16 1.015m 16 1.020m 0) Rser=0.5
R28 V_v+ Vout 12K
R29 V_v+ 0 10K
C9 V_v+ 0 1n
C10 npn_base 0 10n
R31 PMOS_source N027 10k
D13 N038 npn_base D
R32 npn_base 0 10k
Q5 N035 N043 0 0 2N3904
C11 N042 N029 100n Rser=0.1
R33 N043 0 100k
R17 N043 N042 1k
R18 N048 0 1G
R19 0 P004 1G
R20 N035 V_OVP_comp 1k
D7 P008 N006 D
R21 N004 N006 1
V15 N008 0 PULSE(0 5 5.5m 1u 1u 1m 10m)
S4 N011 N010 N008 0 FAULT_SW
M3 N010 PMOS_gate PMOS_source PMOS_source HEAVY_PMOS
R22 0 P007 5m
C8 N010 0 47µ Rser=0.05
X§U8 N003 N002 N001 0 UVLO_out tlv3501 ;§pnba In+)In-)V+)V-)OUT
V16 N001 0 5
R23 N003 Battery_in 10k
R30 0 N003 3.086k
R34 N003 UVLO_out 83.3k
V17 N002 0 2.5
R35 Vout 0 1R
.model D D
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.mos
.model MYSW SW(Ron=0.01 Roff=1Meg Vt=2.5)
.options trtol=7 reltol=0.01 method=gear
.include OPA365.lib
.include tlv3501.lib
.tran 0 7m 0 1u startup
.options gmin=1e-10
* To overcome the SHDN pin commands in the .lib file we have to include the .options param
.model FAULT_SW SW(Ron=10m Roff=1Meg Vt=2.5)
.model FAULT_NMOS VDMOS(Vto=2.5 Rd=10m)
.model SMAJ5_0A D(Is=1n Rs=0.064 Bv=6.4 Ibv=10m Cjo=2000p)
* Add button to drain the latch to break the loop to reset the latch without removing the battery
* Get a integrated UVLO comparator for this, to prevent random triggering due to brownout situations\nOr put a zener with a 3.3V
.model HEAVY_PMOS VDMOS(pchan Rg=2 Rd=5m Rs=2m Vto=-3.0 Kp=60 Cgdmax=3n Cgdmin=1n Cgs=5n Cjo=2n Is=20p mtriode=1 BV=55)
* Maybe, give more time delay to this
* Input filter design
.backanno
.end
