* E:\Sync_Buck_convertor\simulations\behavioural_model_complete.asc
* Generated by LTspice 26.0.1 for Windows.
C1 Vout 0 27.77µ V=25 Rser=2.94m Lser=0.6n
L1 switch_node Vout 5.6µ Rser=1m
V1 N031 0 2.5
Rf1 Vout N023 7.91k
Rf3 N025 N023 50
Cf3 Vout N025 10n
Rc1 N024 N023 2.99k
Cc2 comp_out N023 237p
Rf2 N023 0 7.91k
V2 P001 0 5
Cc1 comp_out N024 26.6n
C2 Vout 0 27.77µ V=25 Rser=2.94m Lser=0.6n
C3 Vout 0 27.77µ V=25 Rser=2.94m Lser=0.6n
X§U1 comp_out V_trig N022 0 PWM_signal tlv3501 ;§pnba In+)In-)V+)V-)OUT
V3 N022 0 5
S1 switch_node N007 N008 0 HS_MOS
V4 Battery_in 0 22
V5 P002 0 5
V6 N009 0 5
R1 V_trig N017 8k
R2 N017 V_comp 10k
R3 N006 V_comp 6.944k
C4 V_trig N006 100p
Vref_comp1 N016 0 2.5
Vref_int1 N010 0 2.5
X§U2 N010 N006 N009 0 V_trig OPA365 ;§pnba In+)In-)V+)V-)OUT
X§U3 N017 N016 P002 0 V_comp tlv3501 ;§pnba In+)In-)V+)V-)OUT
X§U4 N026 N023 P001 0 comp_out OPA365 ;§pnba In+)In-)V+)V-)OUT
R4 N026 N031 10k
C5 N026 0 100n
D2 N026 N031 1N5817
S2 V_sense switch_node N012 0 LS_MOS
D1 V_sense switch_node BAT54
D3 comp_out N023 D
R5 AND_IN N040 4000
C6 AND_IN 0 100p
D4 AND_IN N040 BAT54
R6 V_sense 0 10m
X§U5 N037 N028 N029 0 N033 tlv3501 ;§pnba In+)In-)V+)V-)OUT
A2 N033 0 0 0 0 N030 N034 0 DFLOP Vhigh=5 Vlow=0 Ref=2.5 Trise=5n Tfall=5n Td=0n
A3 0 N027 N030 0 0 0 0 0 AND Vhigh=5 Vlow=0 Ref=2.5 Trise=5n Tfall=5n
V7 N029 0 5
S3 N019 P003 N014 0 FAULT_SW
R§0.3 N011 P003 0.5
V9 N014 0 PULSE(0 5 2.5m 1u 1u 0.5m 10m)
M1 N026 N051 N038 N038 FAULT_NMOS
R8 N038 0 1k
C7 N046 0 10n
R9 N046 0 100k
D5 N034 N043 D
R10 N043 N046 10k
X§U6 N046 N049 P004 0 N051 tlv3501 ;§pnba In+)In-)V+)V-)OUT
V10 P004 0 5
V11 N049 0 2.5
A4 0 0 0 0 0 0 N027 0 BUF Vhigh=5 Vlow=0 Ref=2.5 Td=0n Trise=5n Tfall=5n
A1 PWM_signal 0 0 0 0 0 N013 0 BUF Vhigh=5 Vlow=0 Ref=2.5 Td=50n
A5 0 N013 PWM_signal 0 0 0 N008 0 AND Vhigh=5 Vlow=0 Ref=2.5 Trise=5n Tfall=5n
A6 N013 0 PWM_signal 0 0 N012 0 0 OR Vhigh=5 Vlow=0 Vt=2.5 Trise=5n Tfall=5n
M2 Battery_in PMOS_gate PMOS_source PMOS_source HEAVY_PMOS
R11 PMOS_gate 0 100k
D6 PMOS_gate PMOS_source BZX84C12L
R12 N053 N058 R=10k * exp(3950 * (1/(V(0)+273.15) - 1/298.15))
R13 N058 0 10k
V12 N053 0 5
X§U7 N059 N058 N055 0 OTP_out tlv3501 ;§pnba In+)In-)V+)V-)OUT
V13 N055 0 5
R14 N059 N053 10k
R15 0 N059 136.1k
R16 OTP_out N059 186.8k
V14 0 0 PWL(0 25 3.5m 25 4m 125 4.5m 25 7m 25)
X§U9 V_v+ N045 N044 0 V_OVP_comp tlv3501 ;§pnba In+)In-)V+)V-)OUT
V18 N044 0 PWL(0 0 1m 5 6m 5 6.001m 0 7m 0)
V19 N045 0 2.5
Q3 N041 npn_base 0 0 2N3904
Q4 N054 N042 N039 0 2N3906
R24 N042 N041 4.7k
R25 npn_base N048 4.7k
D10 N047 N048 BAT54
R26 N052 N054 4.7k
D11 N054 NC_10 1N5819
R27 N039 N042 10k
D12 P005 N050 SMAJ5_0A
R28 V_v+ N050 12K
R29 V_v+ 0 10K
C9 V_v+ 0 1n
C10 npn_base 0 10n
R31 N039 N041 10k
D13 N052 npn_base D
R32 npn_base 0 10k
Q5 N047 N057 0 0 2N3904
C11 N056 N044 100n Rser=0.1
R33 N057 0 100k
R17 N057 N056 1k
R18 N040 0 1G
R20 N047 V_OVP_comp 1k
V15 N001 0 PULSE(0 5 5.5m 1u 1u 1m 10m)
S4 N003 N002 N001 0 FAULT_SW
M3 N007 PMOS_gate PMOS_source PMOS_source HEAVY_PMOS
R22 0 P005 5m
C8 N007 0 47µ Rser=0.05
X§U8 N021 N020 N018 0 UVLO_out tlv3501 ;§pnba In+)In-)V+)V-)OUT
V16 N018 0 5
R23 N021 Battery_in 10k
R30 0 N021 3.086k
R34 N021 UVLO_out 83.3k
V17 N020 0 2.5
R35 N011 N019 1R
R36 Vout 0 1
Coss switch_node V_sense 1.68n
coss_HS switch_node N007 450p
C12 N015 0 6.8n
R38 switch_node N015 2.2
X§U11 0 NC_11 N035 0 N032 N036 INA181A1 ;§pnba INP)INN)VCC)GND)REF)OUT
V8 N035 0 5
V20 N032 0 2.5
R7 N033 N037 100k
R19 N037 N036 1k
R21 N029 N028 3.5k
R39 N028 0 10k
X§U12 N005 N004 P006 0 PGOOD tlv3501 ;§pnba In+)In-)V+)V-)OUT
V22 N004 0 1.65
R44 N005 Vout 10k
R45 0 N005 5500
R46 PGOOD N005 110k
V23 P006 0 3.3
.model D D
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.mos
.model MYSW SW(Ron=0.01 Roff=1Meg Vt=2.5)
.options trtol=7 reltol=0.01 method=gear
.include OPA365.lib
.include tlv3501.lib
.options gmin=1e-10
.options ptrantau=0
* To overcome the SHDN pin commands in the .lib file we have to include the .options param
.model FAULT_SW SW(Ron=10m Roff=1Meg Vt=2.5)
.model FAULT_NMOS VDMOS(Vto=2.5 Rd=10m)
.model SMAJ5_0A D(Is=1n Rs=0.064 Bv=6.4 Ibv=10m Cjo=2000p)
* Add button to drain the latch to break the loop to reset the latch without removing the battery
* Get a integrated UVLO comparator for this, to prevent random triggering due to brownout situations\nOr put a zener with a 3.3V
.model HEAVY_PMOS VDMOS(pchan Rg=2 Rd=5m Rs=2m Vto=-3.0 Kp=60 Cgdmax=3n Cgdmin=1n Cgs=5n Cjo=2n Is=20p mtriode=1 BV=55)
* Maybe, give more time delay to this
.tran 0 5ms 0 10n startup
.model LS_MOS SW(Ron=1.45m Roff=1Meg Vt=2.5 )
.model HS_MOS SW(Ron=9.2m Roff=1Meg Vt=2.5 )
* Soft start circuit
* Hiccuping circuit
* SCP/OCP trigger
* Type III COmpensator
* Oscillator
* PWM Generator
* Over temperature Protection
* OVP Protection
* Old SCP/OCP
* UVLO trigger
* Faulty load
* PWM masking \nand splitting
* Plant
* Over voltage fault switch
* Directives
.include ina181a1.LIB
* PGOOD
* Library below included based on ModelFile attribute of instance X§U11 (E:\Sync_Buck_convertor\simulations\INA181A1.asy)
.lib ina181a1.lib
.backanno
.end
