* E:\Sync_Buck_convertor\ltspice_simulation\sync_nuck_PMIC.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 0 N001 N002 P001 vout OPAx376 ;§pnba In+)In-)V+)V-)OUT
V1 N002 0 5v
V2 N003 0 SINE(0 1 1k)
R1 N001 N003 1k
R2 vout N001 100k
V3 0 P001 5v
.include OPAx376.LIB
.tran 10m
.backanno
.end
